US05010195
Preparation of 4-Chloro-2-methylthio-5-methoxy-6-hydrazinopyrimidine
A mixture of 48.1 g (0.21 mol) of 4,6-di-chloro-2-methylthio-5-methoxypyrimidine, 29.5 g (0.21 mol) of potassium carbonate, 80 ml of hydrazine monohydrate, and 80 ml of water was prepared and heated at reflux with stirring for about 30 min at which time the reaction appeared by high pressure liquid chromatography to be complete. The mixture was allowed to cool and was extracted with methylene chloride. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was mixed with hexane and the solids removed by filtration and dried to obtain 34,7 g of the title compound as a tan solid melting at 118° C.-119° C.

reactant | 4,6-di-chloro-2-methylthio-5-methoxypyrimidine | 0.21 mol, 48.1 g | ClC1=NC(=NC(=C1OC)Cl)SC | C6H6Cl2N2OS
reactant | potassium carbonate | 0.21 mol, 29.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 80 ml | O.NN
solvent | water | 80 ml | O | H2O
product | 4-Chloro-2-methylthio-5-methoxy-6-hydrazinopyrimidine | 34,7 g | ClC1=NC(=NC(=C1OC)NN)SC | C6H9ClN4OS
